US06124462
In a drybox, 14.4 mg (0.087 mmol) of (Me3C)2PH(O) from Experiment 2, 20.0 mg (0.0218 mmol) of Pd2 (dba)3 (dba=bis(dibenzylideneacetone)) and 4.0 mL of toluene were loaded into a reactor (20 mL) equipped with a magnetic stir bar. The resulting mixture was stirred at room temperature overnight. Next, 144 mg (1.5 mmol) of NaOtBu was added into the mixture above, followed by syringing 122 μl (1.2 mmol) of PhCl, and 100 μl (1.0 mmol) of piperidine into the reactor. The resulting mixture was refluxed for 5 h. The reaction mixture was then cooled to room temperature, chromatographed on silicon gel using ethyl acetate/hexane (5% volume ratio) as eluant. The eluate was concentrated by rotary evaporation followed by high vacuum to yield 82 mg (51% yield) of N-phenylpiperidine. It was >95% pure by 1H NMR and GC/MS. 1H NMR (500 MHz, CDCl3): δ 7.15 (m, 2H), 6.84 (m, 2H), 6.72 (m, 1H), 3.06 (t, J=5.48 Hz, 4H), 1.61 (m, 4H), 1.48 (m, 2H) ppm. 13C NMR (125 MHz, CDCl3): d 152.3, 129.0, 119.2, 116.5, 50.7, 25.9, 24.43 ppm. MS: Calculated for C11H15N(M+): 161.3. Found: 162.3 (M+ +H).

reactant | NaOtBu | 1.5 mmol, 144 mg | CC(C)(C)[O-].[Na+]
reactant | PhCl | 1.2 mmol, 122 μl | C1(=CC=CC=C1)Cl | C6H5Cl
reactant | piperidine | 1.0 mmol, 100 μl | N1CCCCC1 | C5H11N
catalyst | Pd2 (dba)3 | 0.0218 mmol, 20.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenylpiperidine | 82 mg, 51% yield | C1(=CC=CC=C1)N1CCCCC1 | C11H15N
